US05436261
Stage A: 2-Amino-2-cyano-2,3-dihydrophenalene
1 ml of concentrated hydrochloric acid is added dropwise to a vigorously stirred mixture of 13.7 mmol of 1,3-dihydro-2-phenalenone and 40 mmol of sodium cyanide in 60 ml of water and 80 ml of ethyl ether. After one hour of stirring at 20C., and when settling has taken place, the organic phase is separated, washed with water, dried and evaporated. The residue obtained is treated with 20 ml of a methanolic solution of ammonia (3.5M) with stirring for 5 hours at 20C.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | 1,3-dihydro-2-phenalenone | 13.7 mmol | C1C(CC2=CC=CC3=CC=CC1=C23)=O | C13H10O
reactant | sodium cyanide | 40 mmol | [C-]#N.[Na+]
reactant | ammonia | 3.5M | N | H3N
solvent | water | 60 ml | O | H2O
solvent | ethyl ether | 80 ml | C(C)OCC | C4H10O
product | 2-Amino-2-cyano-2,3-dihydrophenalene | NC1(CC=2C=CC=C3C=CC=C(C1)C23)C#N | C14H12N2
